US06133303
Step 2: 2-(1H-1-Imidazolyl)-1-propanol
A suspension of 16.6 g (0.437 mol) of lithium aluminum hydride in 700 mL of THF was warmed to 40° C. and treated dropwise with 36.8 g (0.219 mol) of ethyl 2-(1H-1-imidazolyl)propanoate and the suspension allowed to stir at room temperature for 2.5 hours. The mixture was decomposed with dilute NaOH, filtered, and the solid washed with THF. The solvent was removed under reduced pressure and the residue distilled at 155-170° C./0.5 mm Hg. There was obtained 18.6 g (67% yield) of the product as an oil. The structure was confirmed by NMR and mass spectroscopy. MS m/z 127 (M+H+).

reactant | lithium aluminum hydride | 0.437 mol, 16.6 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | ethyl 2-(1H-1-imidazolyl)propanoate | 0.219 mol, 36.8 g | N1(C=NC=C1)C(C(=O)OCC)C | C8H12N2O2
reactant | NaOH | [OH-].[Na+]
solvent | THF | 700 mL | C1CCOC1 | C4H8O
product | 2-(1H-1-Imidazolyl)-1-propanol | 18.6 g, 67% yield | N1(C=NC=C1)C(CO)C | C6H10N2O
